US06624196B2
To a stirred, partial solution of 4-[4-(4-methyl-benzoylamino)-phenyl]-4-oxo-butyric acid, methyl ester (0.5748 g, 0.00177 mol) in THF (11 mL) was added 1.0 M NaOH (3.7 mL, 0.0037 mol), and the mixture was stirred overnight. The resulting suspension was filtered, and the filtercake was washed with THF. The solids were partitioned between EtOAc-THF and 0.2 M HCl, and left for 8 days. The solids were filtered, washed with water, and dried in vacuo to give 0.2133 g of 4-[4-(4-methyl-benzoylamino)-phenyl]-4-oxo-butyric acid as an off-white solid; mp 257-258° C.

reactant | 4-[4-(4-methyl-benzoylamino)-phenyl]-4-oxo-butyric acid, methyl ester | 0.00177 mol, 0.5748 g | CC1=CC=C(C(=O)NC2=CC=C(C=C2)C(CCC(=O)OC)=O)C=C1 | C19H19NO4
reactant | NaOH | 0.0037 mol, 1.0 M, 3.7 mL | [OH-].[Na+]
solvent | THF | 11 mL | C1CCOC1 | C4H8O
product | 4-[4-(4-methyl-benzoylamino)-phenyl]-4-oxo-butyric acid | 0.2133 g | CC1=CC=C(C(=O)NC2=CC=C(C=C2)C(CCC(=O)O)=O)C=C1 | C18H17NO4
